US04994486
Step 2: [1R,3S] 3-Benzyloxymethyl-1-bromomethyl-3,4-dihydro-5-methoxy-8-methyl-1H-2-benzopyran
A solution of 1-benzyloxy-3-(2'-methoxy-5'-methylphenyl)-2-propanol (3.4 g, 12 mmol), from Step 1, and bromoacetaldehyde dimethyl acetal (1.7 mL, 14 mmol) in 25 mL of methylene chloride is cooled to 0° C. Boron trifluoride etherate (3.6 mL, 29 mmol) is added dropwise and the reaction mixture is stirred for 1.5 h. The resultant dark brown solution is poured into 50 mL of 10% aqueous sodium carbonate solution and the aqueous solution is extracted with 3×50 mL of diethyl ether. The combined ether extracts are washed with saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to give the title compound.

reactant | 1-benzyloxy-3-(2'-methoxy-5'-methylphenyl)-2-propanol | 12 mmol, 3.4 g | C(C1=CC=CC=C1)OCC(CC1=C(C=CC(=C1)C)OC)O | C18H22O3
reactant | bromoacetaldehyde dimethyl acetal | 14 mmol, 1.7 mL | COC(CBr)OC | C4H9BrO2
reactant | Boron trifluoride etherate | 29 mmol, 3.6 mL | B(F)(F)F.CCOCC
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | [1R,3S] 3-Benzyloxymethyl-1-bromomethyl-3,4-dihydro-5-methoxy-8-methyl-1H-2-benzopyran | C(C1=CC=CC=C1)OC[C@H]1O[C@H](C2=C(C1)C(=CC=C2C)OC)CBr | C20H23BrO3
